US05847008
2,3-Dichloro-4-methoxybenzeneacetic acid, methyl ester, 46 gm, was refluxed for 18 hours in concentrated HBr, 350 mL. The reaction mixture was poured in water, 1.4 L, and the solution was extracted with EtOAc, 2×500 mL. The organic layers were washed with water, dried (Na2SO4) and concentrated to dryness. The residue was slurried in 20% EtOAc-hexane to yield 2,3-dichloro-4-hydroxybenzeneacetic acid, mp 189°-190° C. The acid was stirred at room temperature in methanolic HCl, 100 mL, for 30 minutes. The volatiles were removed in vacuo and the residue was slurried in hexane, filtered and air-dried to yield 17.6 gm of the title compound, mp 105°-106° C., analysis, calculated: C, 45.98; H, 3.43; Cl, 30.16; obtained: C, 46.10; H, 3.65; Cl, 30.31.

reactant | 2,3-Dichloro-4-methoxybenzeneacetic acid, methyl ester | ClC1=C(C=CC(=C1Cl)OC)CC(=O)OC | C10H10Cl2O3
solvent | HBr | Br | BrH
solvent | water | O | H2O
product | 2,3-dichloro-4-hydroxybenzeneacetic acid | ClC1=C(C=CC(=C1Cl)O)CC(=O)O | C8H6Cl2O3
